US04107307
6-Benzyl-8-methyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A mixture of 4.89 gm. of 3-[(2-benzyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester and 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 244°-247° C.

reactant | 3-[(2-benzyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)CC1=CC=CC=C1)=O | C15H18N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Benzyl-8-methyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(C1=CC=CC=C1)C1=NC(=C2N1C(NN=C2)=O)C | C13H12N4O
